US07034039B2
A solution of 4-butoxy-3-{{(tert-butoxycarbonyl)amino}methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid (synthesized according to the method similar to that in Example 76 (1)) (0.45 g, 1 mmol), diphenylphosphoryl azide (0.26 ml, 1.2 mmol) and triethylamine (0.17 ml, 1.2 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in toluene (20 ml) and the mixture was refluxed with stirring for 1 h. To the obtained mixture was added a solution of 2N methylamine in tetrahydrofuran (1 ml, 2 mmol), and the mixture was refluxed with stirring for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran-diisopropyl ether to give tert-butyl {4-butoxy-2-isobutyl-6-{{(methylamino)carbony}-amino}-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.39 g, 83.0%) as an amorphous.

reactant | 4-butoxy-3-{{(tert-butoxycarbonyl)amino}methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C(=O)O)=O)CC(C)C)CNC(=O)OC(C)(C)C | C24H34N2O6
reactant | diphenylphosphoryl azide | 1.2 mmol, 0.26 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.2 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine | 2N | CN | CH5N
reactant | tetrahydrofuran | 2 mmol, 1 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl {4-butoxy-2-isobutyl-6-{{(methylamino)carbony}-amino}-1-oxo-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.39 g, 83.0% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)NC(=O)NC)=O)CC(C)C)CNC(OC(C)(C)C)=O | C25H38N4O5
